US05776940
2-Cyano-N-(cyclohexylmethyl)acetamide was prepared by the method of V. Papesh, J. Org. Chem. 1951, 16, 1879-1889. Ethyl cyanoacetate (Aldrich, 18.41 mL, 173 mmol) was added to neat cyclohexanemethylamine (Aldrich, 19.585 g, 173 mmol), and the resulting solution was stirred for 2 h under nitrogen. At this time, the reaction mixture solidified. After standing for 18 h the white crystalline solid was broken up, filtered, washed with water (150 mL), and dried (0.1 Torr, 40° C.) to provide 2-cyano-N-(cyclohexylmethyl)acetamide (29.030 g, 93%), m.p. 83°-84° C.; 1H-NMR (DMSO-d6) consistent with structure.

reactant | Ethyl cyanoacetate | 173 mmol, 18.41 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | cyclohexanemethylamine | 173 mmol, 19.585 g | C1(CCCCC1)CN | C7H15N
product | 2-cyano-N-(cyclohexylmethyl)acetamide | 29.030 g, 93% | C(#N)CC(=O)NCC1CCCCC1 | C10H16N2O
